US08030500B2
1-(3-Bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine
n-Butyllithium (1.7 mL, 4.17 mmol) (2.5 M in hexanes) was dropwise added to 1,3-dibromobenzene (0.504 mL, 4.17 mmol) in diethyl ether (25.00 mL) at −78° C. under argon. The resulting mixture was stirred at −78° C. for 1 h. Additional n-butyllithium (2.5 M in hexanes) (0.8 mL, 2.00 mmol) was added and the resulting reaction mixture was stirred at −78° C. for 30 min. N-((2-Cyano-3-fluorophenyl)(2-methoxypyridin-4-yl)methylene)-2-methylpropane-2-sulfinamide (1.500 g, 4.17 mmol) in diethyl ether (10.00 mL) was added dropwise and stirring was continued for 1 h at −78° C. Hydrochloric acid (25.04 mL, 12.52 mmol) (0.5 M in methanol) was added and the resulting reaction mixture was stirred at room temperature over night and concentrated in vacuo. The residue was partitioned between aqueous sodium bicarbonate (sat.) and ethyl acetate (×3). The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. Purification by silica chromatography using 0% to 5% (3.5 M ammonia in methanol) in dichloromethane gave the title compound 0.812 g, (47% yield).

reactant | n-Butyllithium | 4.17 mmol, 2.5 M, 1.7 mL | C(CCC)[Li]
reactant | 1,3-dibromobenzene | 4.17 mmol, 0.504 mL | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | n-butyllithium | 2.00 mmol, 2.5 M, 0.8 mL | C(CCC)[Li]
reactant | N-((2-Cyano-3-fluorophenyl)(2-methoxypyridin-4-yl)methylene)-2-methylpropane-2-sulfinamide | 4.17 mmol, 1.500 g | C(#N)C1=C(C=CC=C1F)C(=NS(=O)C(C)(C)C)C1=CC(=NC=C1)OC | C18H18FN3O2S
reactant | Hydrochloric acid | 12.52 mmol, 0.5 M, 25.04 mL | Cl | ClH
solvent | diethyl ether | 25.00 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10.00 mL | C(C)OCC | C4H10O
product | 1-(3-Bromophenyl)-4-fluoro-1-(2-methoxypyridin-4-yl)-1H-isoindol-3-amine | 0.812 g, 47% yield | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC=C1)OC | C20H15BrFN3O
